US04410539
3-Hydroxypyridine (0.40 g.) was dissolved in dry N,N-dimethylformamide (10 ml.) and sodium hydride (0.20 g. of 50% dispersion in mineral oil) was added portionwise with stirring and the resulting mixture was stirred at room temperature for 30 minutes. 5-(Bromomethyl)benzo[b]thiophene-2-carboxylic acid methyl ester (1.20 g.) in a few mls of dry N,N-dimethylformamide was then added and the mixture was stirred at room temperature for 30 minutes, and then poured into water. The mixture was extracted several times with ethyl acetate and the combined extracts were washed well with water and dried (Na2SO4). Evaporation of the solvent gave an oil which was chromatographed on silica gel. Elution with a mixture of chloroform and toluene (1:1) first gave mineral oil followed by pure product. Evaporation of the product-containing fractions gave a solid (0.40 g.) which was crystallized from isopropanol/petrol (b.p. 60°-80°) to give 5-(3-pyridyloxymethyl)benzo[b]thiophene-2-carboxylic acid methyl ester, m.p. 106°-107° C.

reactant | 3-Hydroxypyridine | 0.40 g | OC=1C=NC=CC1 | C5H5NO
reactant | sodium hydride | 0.20 g | [H-].[Na+]
reactant | 5-(Bromomethyl)benzo[b]thiophene-2-carboxylic acid methyl ester | 1.20 g | COC(=O)C1=CC2=C(S1)C=CC(=C2)CBr | C11H9BrO2S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-(3-pyridyloxymethyl)benzo[b]thiophene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=C(S1)C=CC(=C2)COC=2C=NC=CC2 | C16H13NO3S
